US08937071B2
A suspension of 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)acetonitrile (16.00 mg, 0.080 mmol) in DMF (5 mL) was added to a solution of 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetic acid (46.33 mg, 0.080 mmol) in DMF (5 mL). HOBt (18.27 mg, 0.119 mmol), EDC (22.87 mg, 0.119 mmol) and Et3N (0.033 mL, 0.239 mmol) and the mixture was at 50° C. for 12 h. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, acidic condition) to yield a yellow solid of N-(6-(cyanomethyl)-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide, hydrochloride (0.96 mg, 1.879 μmol, 2.4% yield). TLC (DCM/MeOH=10:1, Rf=0.3): 1H NMR (400 MHz, CD3OD) δ: 8.87-8.96 (m, 1H), 8.56 (d, J=2.21 Hz, 1H), 7.19-7.50 (m, 5H), 4.08-4.18 (m, 2H), 3.85 (s, 3H), 3.58 (s, 2H), 1.29-1.35 (m, 3H); ES-LCMS m/z 475.0 (M+H).

reactant | 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)acetonitrile | 0.080 mmol, 16.00 mg | NC=1C=C(C(=NC1)CC#N)C(F)(F)F | C8H6F3N3
reactant | 2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetic acid | 0.080 mmol, 46.33 mg | C(C)OC1=CC(=CNC1=O)C1=CC(=C(C=C1)CC(=O)O)F | C15H14FNO4
reactant | HOBt | 0.119 mmol, 18.27 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.119 mmol, 22.87 mg
reactant | Et3N | 0.239 mmol, 0.033 mL | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(6-(cyanomethyl)-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide, hydrochloride | 1.879 μmol, 0.96 mg, 2.4% yield | Cl.C(#N)CC1=C(C=C(C=N1)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O)C(F)(F)F | InChI=1S/C23H18F4N4O3.ClH/c1-2-34-20-8-15(11-30-22(20)33)13-3-4-14(18(24)7-13)9-21(32)31-16-10-17(23(25,26)27)19(5-6-28)29-12-16;/h3-4,7-8,10-12H,2,5,9H2,1H3,(H,30,33)(H,31,32);1H
